US07994202B2
3-Iodo-6-nitro-1H-indazole
Iodine (2.14 g, manufactured by Kanto Chemical Co., Inc.) and potassium hydroxide (475 mg, manufactured by Wako Pure Chemical Industries, Ltd.) were added to a solution of 6-nitro-1H-indazole (690 mg, manufactured by Wako Pure Chemical Industries, Ltd.) in N,N-dimethylformamide (20 mL, manufactured by Kanto Chemical Co., Inc.), and the mixture was stirred for one hour at room temperature. A saturated aqueous solution of sodium thiosulfate (20 mL) was added to the reaction solution, and the mixture was extracted with chloroform (3×20 mL), washed with brine (40 mL), and dried (MgSO4). The solvent was then evaporated. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=9:1), to give 1.04 g of the title compound. LC-MS: HPLC retention time 0.54 minutes, m/z 290 (M+H), condition C-3.

reactant | Iodine | 2.14 g | II | I2
reactant | potassium hydroxide | 475 mg | [OH-].[K+]
reactant | 6-nitro-1H-indazole | 690 mg | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | sodium thiosulfate | 20 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-Iodo-6-nitro-1H-indazole | 1.04 g | IC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C7H4IN3O2
